US09127024B2
Step 2: Synthesis of 2-Fluoro-3-Iodo-4-Methyl benzoic acid
To a 500 ml round bottom, three neck flask equipped with a condenser and magnetic stirrer, was added 2-fluoro-3-iodo-4-methyl-benzonitrile (33 g, 126.4 mmol), 70 ml of methanol, and 70 ml of 60% aqueous sulfuric acid. The flask was sealed and temperature was raised to 115° C. The reaction mixture was stirred at this temperature overnight. The precipitate that formed was filtered onto fritted filter, washed with 1 L of water, and dried under vacuum for 2 h and then in vacuum oven at 60° C. for 3 h to give 31.5 g of IXS-4-95-1. 1H NMR (DMSO-d6, 400 MHz) δ 13.2 (broad s, 1H), 7.74 (t, 1H), 7.26 (d, 1H), 2.47 (s, 3H), and MS [MH+]=280).

reactant | 2-fluoro-3-iodo-4-methyl-benzonitrile | 126.4 mmol, 33 g | FC1=C(C#N)C=CC(=C1I)C | C8H5FIN
reactant | sulfuric acid | 70 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 70 ml | CO | CH4O
product | 2-Fluoro-3-Iodo-4-Methyl benzoic acid | FC1=C(C(=O)O)C=CC(=C1I)C | C8H6FIO2
